US04150129
The solution of 8.0 g of 1-methyl-3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 14.2 g of piperidine, 6.4 ml of 5 N methanolic hydrogen chloride and 1.91 g of sodium cyanoborohydride in 100 ml of methanol is refluxed overnight. An additional portion of 1.91 g of sodium cyanoborohydride is added and refluxing continued for another day. The solution is cooled, acidified with a 35 ml of concentrated hydrochloric acid and evaporated. The residue is diluted with 100 ml of water, the aqueous solution washed with benzene, filtered, basified with 65 ml 3 N aqueous sodium hydroxide and extracted with diethyl ether. The extract is dried, evaporated and the residue crystallized from petroleum ether and recrystallized from hexane, to yield the 1-methyl-3-(2-piperidinopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 101°-103°.

reactant | 1-methyl-3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 8.0 g | CN1C(C(=C(CCC1)C1=CC(=CC=C1)OC)CC(=O)C)=O | C17H21NO3
reactant | piperidine | 14.2 g | N1CCCCC1 | C5H11N
reactant | hydrogen chloride | 5 N, 6.4 ml | Cl | ClH
reactant | sodium cyanoborohydride | 1.91 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 1.91 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 1-methyl-3-(2-piperidinopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | CN1C(C(=C(CCC1)C1=CC(=CC=C1)OC)CC(C)N1CCCCC1)=O | C22H32N2O2
